US06872840B1
Synthesis of 10,11-dimethylene-12-oxa-tricyclo[6.3.1.01,5]dodecane
1.50 mL of diethyl ether was added to 2-(3-hydroxy-5-trimethylsilanylmethyl-hepta-5,6-dienyl)-cyclopentanone (98 mg, 0.35 mmol) under nitrogen atmosphere. While stirring at −78° C., TMSOTf (63 μL, 0.35 mmol) was added. While stirring the reaction mixture, the reaction temperature was slowly increased to room temperature for 3 hours. The reaction mixture was stirred at room temperature for 30 minutes. After the reaction was completed, H2O was added. After stirring for about 5 minutes, the reaction mixture was diluted with EtOAc and washed with water and saturated brine. The organic layer was separated from the reaction mixture and dried with anhydrous MgSO4. The solvent was removed under reduced pressure and the remaining material was purified with column chromatography (EtOAc/n-hexane={fraction (1/15)}) to obtain 60 mg of the pro duct (91%).

reactant | diethyl ether | 1.50 mL | C(C)OCC | C4H10O
reactant | 2-(3-hydroxy-5-trimethylsilanylmethyl-hepta-5,6-dienyl)-cyclopentanone | 0.35 mmol, 98 mg | OC(CCC1C(CCC1)=O)CC(=C=C)C[Si](C)(C)C | C16H28O2Si
reactant | TMSOTf | 0.35 mmol, 63 μL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 10,11-dimethylene-12-oxa-tricyclo[6.3.1.01,5]dodecane | C=C1CC2CCC3CCCC3(C1=C)O2 | C13H18O
